US09376408B2
To a solution of tert-butyl ((2S)-1-(3,5-bis(trifluoromethyl)phenyl)-1-hydroxypropan-2-yl)carbamate (2.0 g, 5.16 mmol) and triethylamine (1.15 ml, 8.26 mmol) at 0° C. in DCM (20 ml) was added methanesulfonyl chloride (0.48 ml, 6.2 mmol). The reaction was stirred at 0° C. for 1 hour and then was quenched with a saturated solution of NH4Cl. The organic layer was washed with water and brine, dried over Na2SO4, and concentrated. The product was purified by column chromatography to yield (2S)-1-(3,5-bis(trifluoromethyl)phenyl)-2-((tert-butoxycarbonyl)amino)propyl methanesulfonate. The crude material was judged to have a 9:1 diastereomeric ratio by 1H NMR analysis. 1H NMR (500 MHz, CDCl3): δ 7.91 (s, 1H); δ 7.87 (s, 0.1H); δ 7.84 (s, 2H); 5.73 (d, J=4.3 Hz, 1H); δ 5.21 (d, J=7.0 Hz, 0.1H); δ 4.58 (s, 1H); 4.18 (br s, 1H); 3.02 (s, 3H); 1.39 (s, 9H); 1.25 (d, J=6.9 Hz, 3H).

reactant | tert-butyl ((2S)-1-(3,5-bis(trifluoromethyl)phenyl)-1-hydroxypropan-2-yl)carbamate | 5.16 mmol, 2.0 g | FC(C=1C=C(C=C(C1)C(F)(F)F)C([C@H](C)NC(OC(C)(C)C)=O)O)(F)F | C16H19F6NO3
reactant | triethylamine | 8.26 mmol, 1.15 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 6.2 mmol, 0.48 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | DCM | 20 ml | C(Cl)Cl | CH2Cl2
product | (2S)-1-(3,5-bis(trifluoromethyl)phenyl)-2-((tert-butoxycarbonyl)amino)propyl methanesulfonate | CS(=O)(=O)OC([C@H](C)NC(=O)OC(C)(C)C)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C17H21F6NO5S
